Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Duricef / gluten / vancomycin
 
Attending: ___.
 
Chief Complaint:
Thoracic outlet syndrome with history of deep venous thrombosis 
and pulmonary embolism
 
Major Surgical or Invasive Procedure:
___: Right first rib resection and venolysis

 
History of Present Illness:
___ presents for follow-up of her lysis of her right 
subclavian vein she underwent successful lysis and angioplasty.  
This is in the context of DVT and PE related to thoracic outlet 
syndrome.

She is feeling quite a bit better her arm still swells but is 
overall significantly improved her pain is almost gone.  She 
continues on Eliquis.  Her ultrasound showed chronic DVT in the 
arm but some flow through the subclavian vein which is an 
improvement.  MDM had a long discussion with her and her mother. 
Think the best plan of action is first rib resection and venal 
lysis of the vein.  She understands she may need a subsequent 
angioplasty the vein.  Think this will give her the best 
long-term result especially since she is so athletic and 
aggressive with her upper body workups.
 
Past Medical History:
Celiac Disease, Lymphedema
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals: T 98.0, BP 117/72, HR 64, RR 16, SpO2 98%Ra
HEENT: MMM, sclerae anicteric
General: Well appearing, non cachectic
CV: RRR
Pulm: Non-labored respirations
Chest: chest incision is c/d/i with dermabond in place. Gauze 
dressing overlying chest tube is c/d/i.
Abdomen: Soft, NT, ND
Ext: warm, well-perfused. Right hand with normal strength and 
sensation grossly intact. Left foot with 1+ edema with no 
extension above the ankle. ___ sign negative. No posterior 
calf tenderness. 
Vascular Exam: 
Palpable right radial pulse
 
Pertinent Results:
LABS
___ 04:46AM BLOOD WBC-9.7 RBC-4.13 Hgb-10.4* Hct-32.9* 
MCV-80* MCH-25.2* MCHC-31.6* RDW-13.8 RDWSD-39.8 Plt ___
___ 04:46AM BLOOD Glucose-99 UreaN-19 Creat-1.0 Na-138 
K-4.9 Cl-101 HCO3-27 AnGap-10
___ 04:46AM BLOOD Calcium-8.1* Mg-2.2

IMAGING
POST-OP CXR, ___, 1 pm:
IMPRESSION: In comparison with the study of ___, the 
cardiac silhouette remains within normal limits and there is no 
vascular congestion, pleural effusion, acute focal pneumonia, or 
pneumothorax.

POST-OP CXR, ___, 3 pm:
IMPRESSION: In comparison with the earlier study of this date, 
there again is an apical pneumothorax on the right.  A definite 
pleural line is not appreciated, though there is of paucity of 
vessels above the level the posterior third rib on the right. 
Otherwise little change.

POD1 CXR, ___, on water seal:
IMPRESSION: In comparison with the study of ___, with the 
right chest tube on water seal the degree of pneumothorax is 
less prominent and now quite small. Otherwise, little change.

POD1 CXR, ___, after transition to bulb suction:
The right-sided chest tube appears stable in position.  A 
previously seen right-sided pneumothorax is not evident on 
today's study.  The cardiac silhouette and mediastinal 
structures are within normal limits.  Postoperative changes are 
evident from a right first rib resection.

POD2 CXR, ___: 
IMPRESSION: No pneumothorax.  Right chest tube in similar 
position.

 
Brief Hospital Course:
Ms. ___ presented to ___ on ___ for planned right first 
rib resection for thoracic outlet syndrome associated with 
previous DVT and pulmonary embolism. At the initiation of this 
procedure the patient had an apparent allergic reaction which 
was primarily cutaneous in nature (diffuse redness of skin) but 
also associated with some hypotension which was treated 
successfully with steroids and epinephrine by the 
anesthesiologist. As multiple drugs were given and products used 
in close succession, it is difficult to say exactly to which 
item she was allergic. We have highest suspicion for vancomycin 
but rocuronium was also administered around the same time. She 
had also recently been prepped for surgery with a ChloraPrep 
scrub. For full details of this event and the remainder of the 
surgery, which proceeded as planned, please see the operative 
note and the anesthesia record. The patient was brought to the 
PACU and then surgical floor for further recovery in good 
condition. A chest tube was left at the end of the case and 
placed to suction. It was noted to have an air leak upon 
immediate conclusion of surgery, however this resolved by 
post-operative check approximately 1 hour later. Two chest 
x-rays were reassuring for minimal to no pneumothorax and she 
maintained saturations well. She consistently had a palpable 
right radial pulse from the end of the case until discharge and 
experienced no swelling of the right arm.

On the surgical floor, the patient remained hemodynamically 
stable. She was started on a 5 day course of Benadryl and 
methylprednisolone for her intraoperative allergic reaction and 
experienced no recurrence of allergic symptoms while inpatient. 
Her chest tube was transitioned to water seal on the morning of 
POD1. Chest x ray was reassuring and she was taken off the 
Pleurevac and placed on JP bulb suction with another reassuring 
chest X ray taken afterward. JP outputs were monitored and found 
to be sanguinous-tinged serous in color and thin in quality. As 
output was still in the 300-400 cc per day range as of the 
morning of POD2, it was determined that she would be best served 
by completing JP teaching and chest tube teaching, arranging for 
a visiting nurse, and arranging close clinic follow-up for tube 
removal in the next few days. All of these were arranged. A 
morning CXR on ___ was again reassuring. She continued to 
ambulate, tolerate a diet, and remained hemodynamically stable 
with no further allergic symptoms. On the afternoon of ___ she 
did note some minor swelling of the left foot. She has a known 
history of lymphedema on this side and the swelling was 
monitored for about two hours with no worsening on exam and some 
subjective improvement reported by the patient. She continued to 
ambulate and was instructed to call our clinic or answering 
service if this swelling worsened or began to extend beyond her 
foot. She was cleared for home with services and was instructed 
to restart home apixaban on discharge as well as to finish her 
steroid and benadryl course. All instructions, particularly in 
regard to medications and chest drain care (including 
contingencies if the bulb were to dislodge), were reviewed with 
patient and family prior to discharge, and all questions were 
answered to their satisfaction.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. ValACYclovir 500 mg PO TID:PRN recurrence 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
4. Citalopram 10 mg PO QHS 
5. Viorele (28) (desog-e.estradiol/e.estradiol) 0.15-0.02 mgx21 
/0.01 mg x 5 oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Moderate  
2.  DiphenhydrAMINE 25 mg PO Q8H Duration: 3 Days 
RX *diphenhydramine HCl 25 mg 1 capsule(s) by mouth every eight 
(8) hours Disp #*8 Capsule Refills:*0 
3.  Methylprednisolone 2 mg PO DAILY Duration: 3 Days 
RX *methylprednisolone [Medrol] 2 mg 1 tablet(s) by mouth once a 
day Disp #*3 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Apixaban 5 mg PO BID  
6.  Citalopram 10 mg PO QHS  
7.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
8.  ValACYclovir 500 mg PO TID:PRN recurrence  
9.  Viorele (28) (desog-e.estradiol/e.estradiol) 0.15-0.02 mgx21 
/0.01 mg x 5 oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right thoracic outlet syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital for surgery 
to remove your right first rib.  This surgery was done to 
restore proper blood flow to and from your arm.  To perform this 
procedure, an incision was made in your chest.

You tolerated the procedure well and are now ready to be 
discharged from the hospital.   Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery.

First Rib Resection

Patient Discharge Instructions 

WHAT TO EXPECT:
Bruising, tenderness, mild swelling, numbness and/or a firm 
ridge at the incision site is normal.  This will improve 
gradually in the next 2 weeks. 

It is normal to feel tired for a few weeks after your surgery. 

MEDICATION INSTRUCTIONS:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

You should take Tylenol ___ every 6 hours, as needed for neck 
pain.  You may also take your prescription pain medication as 
needed when the pain requires more than Tylenol.  You should 
require less pain medication each day.  Do not take more than a 
daily total of 3000mg of Tylenol.  Tylenol is used as an 
ingredient in some other over-the-counter and prescription 
medications.  Be aware of how much Tylenol you are taking in a 
day.

You should continue to take Benadryl and methylprednisolone to 
complete a ___fter your allergic reaction in the 
operating room. Do not take Benadryl within an hour of taking 
any narcotic painkiller as this may cause too much sedation and 
difficulty breathing. We cannot say for sure what caused your 
allergic reaction. We think the antibiotic vancomycin is the 
most likely, but you also received rocuronium (a paralytic 
anesthetic drug used during surgeries) and ChloraPrep (a 
surgical scrub) at around the same time.

Narcotic pain medication can be very constipating.  If you take 
narcotics,  please also take a stool softener such as Colace.   
If constipation becomes a problem, your pharmacist can suggest 
an additional over the counter laxative.  

CARE OF YOUR INCISION: 
You may shower.  Avoid direct shower spray to the incision 
(which is covered with skin glue) or chest tube site.  Let soapy 
water run over the incisions, then rinse and gently pat the area 
dry.  Do not scrub.  Keep a gauze or drain sponge around the 
site where your chest tube inserts to help make the tube as 
comfortable as possible. 

ACTIVITY: 
Do not drive for at least one week after your procedure.  Do not 
ever drive after taking narcotic pain medication. 

You should not push, pull, lift or carry anything heavier than 5 
pounds for the next 2 weeks. 

After 2 weeks, you may return to your regular activities 
including exercise, sexual activitiy and work. 

DIET: 
It is normal to have a decreased appetite.  Your appetite will 
return over time.  Follow a well-balanced, healthy diet.

CHEST TUBE/DRAIN:
We have placed a tube into your chest to ensure your lung 
remains expanded and help drain any fluid to the outside of your 
body rather than into your lung. Your lung is re-expanded on 
chest x-ray but you currently still require the tube to ensure 
good drainage of the drainage from your surgical site. Your 
visiting nurse ___ help you care for the device. Try to ensure 
that the drain does not twist or kink. When the bulb is emptied, 
it is VERY IMPORTANT that the tube that connects to your chest 
is clamped off. This can be accomplished by using ___ clamp 
or chest tube clamp placed over a gauze onto the tube (the gauze 
is to protect the tube from cracks when pressure is placed on 
it).  

* If your drain ever falls out or becomes disconnected from your 
bulb, the first thing you should do is reconnect the bulb and 
tape it securely. Then call our clinic or go to the ER. If the 
bulb is lost or you can't reconnect it, clamp the tube to 
prevent air from moving into your chest.*If you develop any 
chest pain or increased shortness of breath, please call 
immediately or go to the emergency room.

The gauze dressing around your chest tube should be changed at 
least every other day. 

Showering with a chest tube is okay. Do not submerge the tube or 
bulb device in water. No baths, swimming, or hot tubs. 

CALLING FOR HELP 
If you need help, please call us at ___.  Remember your 
doctor, or someone covering for your doctor is available 24 
hours a day, 7 days a week.  If you call during non-business 
hours, you will reach someone who can help you reach the 
vascular surgeon on call.  

To get help right away, call ___. 

Call the surgeon right away for:
·     severe shortness of breath
·     arm swelling, new or increasing arm tingling. If you 
experience significant loss of sensation in the arm, or if the 
arm turns blue or cold, go to the emergency room.
·     headache that is not controlled with pain medication or 
headache that is getting worse
·     fever of 101 degrees or more
·     bleeding from the incisions, drainage that is new or 
increased, or drainage that is yellow or green from either the 
incision or the chest tube
·     pain that is not relieved with medication, or pain that is 
getting worse instead of better

If you notice any of the following signs of stroke, call ___ to 
get help right away.
·     sudden numbness or weakness of the arm
·     severe shortness of breath or increased pain with 
breathing
 
Followup Instructions:
___